US07402581B2
7-Chloro-2,3-dihydro-1,4-benzodioxine-5-carbaldehyde (6.25 g, 31.4 mmol) was dissolved in acetone (150 mL) and the solution was then cooled to 5° C. A solution of CrO3 in sulfuric acid (4 M in 4 M H2SO4, 12.5 mL, 50 mmol) was added dropwise over 2 min and the mixture was refluxed for 30 min. Water (150 mL) was added and then most of the acetone was removed by evaporation. The mixture was extracted with ether (150 mL) and the organic solution was then extracted with a solution of NaOH (0.5 M, 150 mL). The aqueous solution was acidified with 2 M hydrochloric acid and then extracted with ether (150 mL). The organic solution was washed with brine and dried over Na2SO4. The solvent was removed by evaporation and the residue treated with CH2Cl2. After filtration and drying there was obtained 5.2 g (77%) of 7-chloro-2,3-dihydro-1,4-benzodioxine-5-carboxylic acid. 1H NMR (400 MHz, acetone-d6): 4.3-4.4 (m, 4H), 7.1 (d, 1H), 7.3 (d, 1H), 11-12 (b, 1H).

reactant | 7-Chloro-2,3-dihydro-1,4-benzodioxine-5-carbaldehyde | 31.4 mmol, 6.25 g | ClC=1C=C(C2=C(OCCO2)C1)C=O | C9H7ClO3
reactant | sulfuric acid | 50 mmol, 4 M, 12.5 mL | S(O)(O)(=O)=O | H2O4S
reactant | Water | 150 mL | O | H2O
solvent | acetone | 150 mL | CC(=O)C | C3H6O
product | 7-chloro-2,3-dihydro-1,4-benzodioxine-5-carboxylic acid | 5.2 g, 77% | ClC=1C=C(C2=C(OCCO2)C1)C(=O)O | C9H7ClO4
